US05312914
2(S)-amino-3(S)-carboxy-4(R)-hydroxypentanoic acid (β(S)-(1'(R)-hydroxyethyl)-L-aspartic acid)
2.07 g of 2(S)-amino-3(S)-carboxy-4(R)-pentanolide are suspended in 10 ml of methanol and dissolved by the addition of 13 ml of 2N aqueous sodium hydroxide solution with stirring at room temperature. The solvent mixture is distilled off and acetonitrile is added to the oily residue. The crystals which gradually form are filtered off, washed with a small amount of acetonitrile and dried under a high vacuum. The disodium salt of the title compound remains behind, [α]D20 =-9.0° (1% in water). 1H-NMR (D2O): 1.21 (3H, d 6.4 Hz), 2.54 (1H, dxd 6.4 and 8.4 Hz), 3.49 (1H, d 6 Hz), 3.97 (1H, dxq 8.4 and 6.4 Hz).

reactant | 2(S)-amino-3(S)-carboxy-4(R)-pentanolide | 2.07 g | N[C@@H]1C(=O)O[C@@H]([C@H]1C(=O)O)C | C6H9NO4
reactant | sodium hydroxide | 2N, 13 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2(S)-amino-3(S)-carboxy-4(R)-hydroxypentanoic acid | N[C@H](C(=O)O)[C@@H]([C@@H](C)O)C(=O)O | C6H11NO5
